US07692005B2
2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indol-6-ylmethyl)-phenyl]-amide (0.100 g, 0.278 mmol) and ethyl formate (0.068 mL, 0.834 mmol) were dissolved in anhydrous ethanol (0.55 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.519 mL, 1.39 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a brown precipitate. The suspension was filtered yielding an light brown solid as the pure 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-6-ylmethyl)-phenyl]-amide (0.072 g, 0.186 mmol, 67%).

reactant | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indol-6-ylmethyl)-phenyl]-amide | 0.278 mmol, 0.100 g | O=C1NC2=CC(=CC=C2C1)CC=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C | C21H20N4O2
reactant | ethyl formate | 0.834 mmol, 0.068 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 0.55 mL | C(C)O | C2H6O
solvent | ethanol | 1.39 mmol, 0.519 mL | C(C)O | C2H6O
product | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-6-ylmethyl)-phenyl]-amide | 0.186 mmol, 0.072 g, 67% | OC=C1C(NC2=CC(=CC=C12)CC=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C)=O | C22H20N4O3
